US08048884B2
2,3-Dimethyl-3H-imidazole-4-sulfonic acid {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride
Dissolve {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine (0.111 g, 0.352 mmol) in dichloromethane (4 mL). Add resin-bound morpholine (0.155 g, 0.387 mmol) followed by 1,2-dimethylimidazole-5-sulfonyl chloride (0.075 g, 0.387 mmol) and shake at ambient temperature for 72 hr. Filter, concentrate and purify (SCX chromatography, followed by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate, then 10:90 methanol:ethyl acetate, then 20:80 methanol:ethyl acetate) to give the free base of the title compound (118 mg, 71%).

reactant | {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 0.352 mmol, 0.111 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C17H22FN5
reactant | morpholine | 0.387 mmol, 0.155 g | N1CCOCC1 | C4H9NO
reactant | 1,2-dimethylimidazole-5-sulfonyl chloride | 0.387 mmol, 0.075 g | CN1C(=NC=C1S(=O)(=O)Cl)C | C5H7ClN2O2S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2,3-Dimethyl-3H-imidazole-4-sulfonic acid {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride | 118 mg, 71% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1N(C(=NC1)C)C)C | InChI=1S/C22H28FN7O2S.ClH/c1-17-26-16-20(28(17)3)33(31,32)27(2)10-11-29-12-14-30(15-13-29)22-21(24-8-9-25-22)18-4-6-19(23)7-5-18;/h4-9,16H,10-15H2,1-3H3;1H
